US03998951
A mixture of 15 g of benzoic anhydride and 10.02 g of 5-methylanthranilic acid was heated at 90° for 3 hours. The solid mass was dissolved in boiling 10% aqueous potassium hydroxide. The solution was acidified with dilute hydrochloric acid and the precipitate collected by filtration to give solid 2-benzamido-5-methylbenzoic acid, m.p. 205°-208°.

reactant | benzoic anhydride | 15 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 5-methylanthranilic acid | 10.02 g | CC1=CC=C(C(C(=O)O)=C1)N | C8H9NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
product | 2-benzamido-5-methylbenzoic acid | C(C1=CC=CC=C1)(=O)NC1=C(C(=O)O)C=C(C=C1)C | C15H13NO3
